US07271197B2
iii) 3-(4-Bromobutyl)phenyl acetate
A solution of 3-(4-hydroxybutyl)phenyl acetate (416 mg) in DCM (10 mL) was treated with carbon tetrabromide (1.16 g) and triphenylphosphine (791 mg) and stirred at room temperature for 15 min prior to concentration in vacuo. The residue was purified by chromatography (SPE, DCM-petrol 1:1) to give the title compound. LCMS RT=3.58 min

reactant | 3-(4-hydroxybutyl)phenyl acetate | 416 mg | C(C)(=O)OC1=CC(=CC=C1)CCCCO | C12H16O3
reactant | carbon tetrabromide | 1.16 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 791 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-Bromobutyl)phenyl acetate | C(C)(=O)OC1=CC(=CC=C1)CCCCBr | C12H15BrO2
